US05239083
4-{2-[3-[1-(4-fluorobenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 30)
334 mg of compound 30 was obtained in a similar manner to those described in the Examples 1 and 2 using 654 mg of ethyl 4-(2-aminophenoxy)butyrate and 454 mg of 3-[1-(4-fluorobenzyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 654 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(4-fluorobenzyl)indol-5-yl]isocrotonic acid | 454 mg | FC1=CC=C(CN2C=CC3=CC(=CC=C23)/C(=C/C(=O)O)/C)C=C1 | C19H16FNO2
product | 4-{2-[3-[1-(4-fluorobenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | FC1=CC=C(CN2C=CC3=CC(=CC=C23)/C(=C/C(=O)NC2=C(OCCCC(=O)O)C=CC=C2)/C)C=C1 | C29H27FN2O4
